US07538121B2
1-Methylisoquinoline
To cooled chlorosulfonic acid (−10° C.) (16 ml) was cautiously added N-(2,2-dimethoxyethyl)-(1-phenyl)ethylamine (D90) (5 g, 0.024 mol) over a period of 2 h. The reaction was allowed to warm to ambient temperature and stirring continued for 3 d. The reaction was then poured into ice-water slurry (500 ml), basified using solid potassium carbonate followed by extraction with DCM. The organic phase was separated, dried over MgSO4, filtered and concentrated in vacuo to give the crude product as an oil. Chromatography on silica gel eluting with ethyl acetate afforded the title compound as a yellow oil (1.04 g). 1H NMR (400 MHz, CDCl3) δ (ppm): 8.40 (d, 1H), 8.13 (d, 1H), 7.81 (d, 1H), 7.68 (t, 1H), 7.60 (t, 1H), 7.51 (d, 1H), 2.97 (s, 3H).

reactant | chlorosulfonic acid | 16 ml | ClS(=O)(=O)O | ClHO3S
reactant | N-(2,2-dimethoxyethyl)-(1-phenyl)ethylamine | 0.024 mol, 5 g | COC(CNC(C)C1=CC=CC=C1)OC | C12H19NO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-Methylisoquinoline | 1.04 g | CC1=NC=CC2=CC=CC=C12 | C10H9N
